US07176242B2
Step 3: Methyl 4-amino-3-(butylamino)benzoate
A solution of methyl 3-(butylamino)-4-nitrobenzoate (1.1 g) and 10% Pd/C (110 mg) in methanol (20 mL) was shaken under an atmosphere of hydrogen at 50 psi for 2 h. The mixture was filtered through diatomaceous earth, and concentrated under reduced pressure to provide 940 mg of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 7.13, 6.94, 6.52, 3.72, 3.02, 1.60, 1.42, 0.93.

reactant | methyl 3-(butylamino)-4-nitrobenzoate | 1.1 g | C(CCC)NC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C12H16N2O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 110 mg | [Pd] | Pd
product | Methyl 4-amino-3-(butylamino)benzoate | 940 mg | NC1=C(C=C(C(=O)OC)C=C1)NCCCC | C12H18N2O2
